US05773437
2-(3-Chloropropyl)-2H-1,2-benzothiazin-4(3H)-one 1,1-Dioxide
A mixture of 2-(3-chloropropyl)-2H-1,2-benzothiazin-4(3H)-one 1,1-dioxide ethylene ketal (5.0 g, 15.7 mmol.), 3N aqueous hydrochloric acid (30 mL) and methanol (30 mL) was heated under refluxing for 20 min. Methanol was distilled off under reduced pressure. To the residue was added water (30 mL), and the mixture was extracted with ethyl ether. The ethyl ether portion was washed with an aqueous saturated sodium chloride solution, dried over anhydrous sodium sulfate, and placed under reduced pressure to distill the solvent off, to give the desired compound (4.19 g, 100%) as a yellow oil.

reactant | 2-(3-chloropropyl)-2H-1,2-benzothiazin-4(3H)-one 1,1-dioxide ethylene ketal | 15.7 mmol, 5.0 g | C1COC2(CN(S(C3=C2C=CC=C3)(=O)=O)CCCCl)O1 | C13H16ClNO4S
reactant | hydrochloric acid | 3N, 30 mL | Cl | ClH
solvent | methanol | 30 mL | CO | CH4O
product | 2-(3-Chloropropyl)-2H-1,2-benzothiazin-4(3H)-one 1,1-Dioxide | 4.19 g, 100% | ClCCCN1S(C2=C(C(C1)=O)C=CC=C2)(=O)=O | C11H12ClNO3S
